US03959292
Boiling a solution of 7.8 g of ethylideneacetoacetic acid ethyl ester and 9.2 g of 3-pyrrolidino-3-aminoacrylic acid ethyl ester in 100 ml of ethanol for 2 hours and distilling the residue yields 2-pyrrolidino-4,6-dimethyl-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of boiling point (1.5 mm. Hg : 199° - 204°C). Yield: 42% of theory.

reactant | ethylideneacetoacetic acid ethyl ester | 7.8 g | C(C)OC(CC(=O)C=CC)=O | C8H12O3
reactant | 3-pyrrolidino-3-aminoacrylic acid ethyl ester | 9.2 g | C(C)OC(C=C(N)N1CCCC1)=O | C9H16N2O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-pyrrolidino-4,6-dimethyl-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 42% | C(C)OC(=O)C1=C(N=C(C(C1C)C(=O)OCC)C)N1CCCC1 | C17H26N2O4
